US09127003B2
Intermediate 60: 5-Bromo-2-(1-ethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-methyl-7-(trifluoromethoxy)-1H-benzo[d]imidazole
To a solution of 4-bromo-N-methyl-2-nitro-6-(trifluoromethoxy)aniline (1.368 g, 4.34 mmol) and 1-ethyl-1H-pyrrolo[2,3-b]pyridine-2-carbaldehyde (0.756 g, 4.34 mmol) in ethanol (20 mL) was added sodium dithionite (2.67 g, 13.03 mmol) in water (10 mL). The mixture was flushed with nitrogen and then heated to 80° C. with stirring for 17 h. LCMS showed ˜52% conversion to the desired product with no starting material remaining. The reaction mixture was partitioned between aqueous hydrochloric acid (0.25 M, 100 mL) and extracted with dichloromethane (3×100 mL). The organics were combined, dried using a hydrophobic frit and evaporated under vacuum to give the crude product as a yellow solid. The sample was loaded in dichloromethane and purified by column chromatography on silica (100 g) using a gradient of 0-30% cyclohexane-ethyl acetate. The appropriate fractions were combined and evaporated in vacuo to give the required product (628 mg, 33%) as a yellow gum which solidified.

reactant | 4-bromo-N-methyl-2-nitro-6-(trifluoromethoxy)aniline | 4.34 mmol, 1.368 g | BrC1=CC(=C(NC)C(=C1)OC(F)(F)F)[N+](=O)[O-] | C8H6BrF3N2O3
reactant | 1-ethyl-1H-pyrrolo[2,3-b]pyridine-2-carbaldehyde | 4.34 mmol, 0.756 g | C(C)N1C(=CC=2C1=NC=CC2)C=O | C10H10N2O
reactant | sodium dithionite | 13.03 mmol, 2.67 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | 10 mL | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-Bromo-2-(1-ethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-methyl-7-(trifluoromethoxy)-1H-benzo[d]imidazole | 628 mg, 33% | BrC1=CC2=C(N(C(=N2)C2=CC=3C(=NC=CC3)N2CC)C)C(=C1)OC(F)(F)F | C18H14BrF3N4O
